US09023865B2
An oven-dried, nitrogen cooled 2 ml microwave vial was charged with ethyl 3-(6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)propanoate (59 mg, 0.119 mmol), BrettPhos precatalyst (5 mg, 6.26 μmol), cesium carbonate (122 mg, 0.374 mmol) and 1-benzylurea (32 mg, 0.213 mmol), sealed under a nitrogen atmosphere, charged with Dioxane (0.5 ml) and heated to 100° C. for 16 hr. Filtered through celite, eluted with EtOAc, concentrated in vacuo and purified via flash chromatography (0-20% MeOH/DCM) to provide ethyl 3-(6-(3-benzylureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)propanoate (38.7 mg, 0.063 mmol, 53.4% yield) as a yellow solid. MS ESI calc'd for C38H35N5O3 [M+H]+=610, found 610.

reactant | ethyl 3-(6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)propanoate | 0.119 mmol, 59 mg | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CCC(=O)OCC | C30H26ClN3O2
reactant | cesium carbonate | 0.374 mmol, 122 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-benzylurea | 0.213 mmol, 32 mg | C(C1=CC=CC=C1)NC(=O)N | C8H10N2O
catalyst | BrettPhos precatalyst | 6.26 μmol, 5 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C.C1=CC=C([C-]=C1)CCN.Cl[Pd+]
solvent | Dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
product | ethyl 3-(6-(3-benzylureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)propanoate | 0.063 mmol, 38.7 mg, 53.4% yield | C(C1=CC=CC=C1)NC(NC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CCC(=O)OCC)=O | C38H35N5O3
